US09216972B2
To 6-methoxy-7-methyl-3,4-dihydronaphthalen-1(2H)-one (0.500 g, 2.63 mmol) in methanol (10 mL) were sequentially added hydroxylamine hydrochloride (0.292 g, 4.21 mmol) and sodium acetate (0.345 g, 4.21 mmol) at room temperature. The reaction mixture was heated at 60° C. for 2 h. The reaction mixture was concentrated under vacuum. The residue was dissolved in 25 mL ethyl acetate, transferred to a separating funnel and washed with water (2×10 mL). The ethyl acetate layer was dried over sodium sulfate and concentrated to give (E)-6-methoxy-7-methyl-3,4-dihydronaphthalen-1(2H)-one oxime as viscous orange-colored liquid (0.498 g, 2.43 mmol, 92%). The product had an HPLC ret. time=3.10 min (condition B). LC/MS M+1=206.0.

reactant | 6-methoxy-7-methyl-3,4-dihydronaphthalen-1(2H)-one | 2.63 mmol, 0.500 g | COC=1C=C2CCCC(C2=CC1C)=O | C12H14O2
reactant | hydroxylamine hydrochloride | 4.21 mmol, 0.292 g | Cl.NO
reactant | sodium acetate | 4.21 mmol, 0.345 g | C(C)(=O)[O-].[Na+]
solvent | methanol | 10 mL | CO | CH4O
product | (E)-6-methoxy-7-methyl-3,4-dihydronaphthalen-1(2H)-one oxime | 2.43 mmol, 0.498 g, 92% | COC=1C=C2CCC\C(\C2=CC1C)=N/O | C12H15NO2
